US06544985B2
8-Chloro-7-dimethylamino-4-[3-(4-methylaminomethyl-thiazol-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
A mixture of 8-chloro-4-[3-(4-chloromethyl-thiazol-2-yl)-phenyl]-7-dimethylamino-1,3-dihydro-benzo[b][1,4]diazepin-2-one (89 mg) and KI (3 mg) in a 8M solution of methylamine in EtOH (1 mL) was stirred at 20° C. for 20 h. H2O (25 mL) was added and the pH of the mixture was set to 11 by addition of 2N NaOH. The precipitate was collected by filtration and purified by chromatography on silica gel using MeOH as eluent. The product was stirred with 20% aqueous MeOH (10 mL) and the solid was isolated by filtration to give the title compound (49 mg) as a yellow powder.

reactant | 8-chloro-4-[3-(4-chloromethyl-thiazol-2-yl)-phenyl]-7-dimethylamino-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 89 mg | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2SC=C(N2)CCl)=O)C1)N(C)C | C21H18Cl2N4OS
reactant | methylamine | CN | CH5N
reactant | H2O | 25 mL | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 8-Chloro-7-dimethylamino-4-[3-(4-methylaminomethyl-thiazol-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 49 mg | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2SC=C(N2)CNC)=O)C1)N(C)C | C22H22ClN5OS
